US08871943B2
Methyl 4-(acetylamino)-6-bromo-3-chloro-5-fluoro-picolinate was prepared in analogous fashion to methyl 4-(acetylamino)-3,6-dichloro-5-fluoro-picolinate in Example 8 except that methyl 4-amino-6-bromo-3-chloro-5-fluoropicolinate was used in place of methyl 4-amino-3,6-dichloro-5-fluoropicolinate: mp=190-192° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.5 (s, 1H), 3.93 (s, 3H), 2.16 (s, 3H); 13C NMR (100.6 MHz, DMSO-d6) δ 168.0, 162.8, 153.1, 150.5, 143.7 (d, JF-C=24 Hz), 134.1 (d, JF-C=56 Hz), 127.3 (d, JF-C=96 Hz), 53.2, 22.5; 19F NMR (376.5 MHz, DMSO-d6) δ −108.3; MS Calcd. for C9H7BrCl2FN2O3: 323.93. Found: 289, 226.

reactant | methyl 4-(acetylamino)-3,6-dichloro-5-fluoro-picolinate | C(C)(=O)NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C9H7Cl2FN2O3
reactant | methyl 4-amino-6-bromo-3-chloro-5-fluoropicolinate | NC1=C(C(=NC(=C1F)Br)C(=O)OC)Cl | C7H5BrClFN2O2
product | Methyl 4-(acetylamino)-6-bromo-3-chloro-5-fluoro-picolinate | C(C)(=O)NC1=C(C(=NC(=C1F)Br)C(=O)OC)Cl | C9H7BrClFN2O3
